US07186715B2
Step 1: (R)-[2-(2-Bromo-phenoxy)-1-methyl-ethyl]-ethyl-amine
(R)-2-(2-bromophenoxy)-1-methylethylamine, (Preparation 1A, Step 2) (1.68 g, 7.3 mmol) was dissolved in DMF (16 ml). The mixture was stirred with bromoethane (3.18 ml, 43 mmol) and K2CO3 (7.60 g, 55 mmoles) at r.t. under N2 for about 3 days. The mixture was concentrated, dissolved in EtOAc, washed with water and brine, dried over Na2SO4, and filtered. Solvent was removed and the residue was purified by flash chromatography (silica gel, 5% 2M NH3 in MeOH/CH2Cl2) to give about 2.08 g of a mixture of diethyl and monoethyl amine compounds with the mono ethyl as the minor product.

reactant | (R)-2-(2-bromophenoxy)-1-methylethylamine | BrC1=C(OC[C@@H](C)N)C=CC=C1 | C9H12BrNO
reactant | bromoethane | 43 mmol, 3.18 ml | BrCC | C2H5Br
reactant | K2CO3 | 55 mmoles, 7.60 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 16 ml | CN(C)C=O | C3H7NO
product | (R)-[2-(2-Bromo-phenoxy)-1-methyl-ethyl]-ethyl-amine | about 2.08 g | BrC1=C(OC[C@@H](C)NCC)C=CC=C1 | C11H16BrNO
